US07427612B2
1-(2-Bromo-5-trifluoromethyl-phenyl)-piperazine
A mixture of 2 g (8 mmol) 1-Bromo-2-fluoro-4-trifluoromethyl-benzene and 2.13 g (25 mmol) piperazine in 2 ml N,N-dimethylacetamide was heated to 100° C. for 2 h and subsequently all volatiles were removed under vacuum. The residue was purified by flash column chromatography on silica eluting with DCM/methanol/1% NH3 aq. to yield 0.765 g (37%) of the title compound as colourless oil.

reactant | 1-Bromo-2-fluoro-4-trifluoromethyl-benzene | 8 mmol, 2 g | BrC1=C(C=C(C=C1)C(F)(F)F)F | C7H3BrF4
reactant | piperazine | 25 mmol, 2.13 g | N1CCNCC1 | C4H10N2
solvent | N,N-dimethylacetamide | 2 ml | CN(C(C)=O)C | C4H9NO
product | 1-(2-Bromo-5-trifluoromethyl-phenyl)-piperazine | 0.765 g, 37% | BrC1=C(C=C(C=C1)C(F)(F)F)N1CCNCC1 | C11H12BrF3N2
